US06635771B2
3-[4-({2-[1-benzhydryl-5-chloro-2-(2-{[(2-chlorobenzyl)sulfonyl]amino}ethyl)-1H-indol-3-yl]ethyl}sulfonyl)phenyl]propanoic acid
Ethyl 3-[4-({2-[1-benzhydryl-5-chloro-2-(2-{[(2-chlorobenzyl)sulfonyl]amino}ethyl)-1H-indol-3-yl]ethyl}sulfonyl)phenyl]propanoate (1 eq), THF (0.1M), MeOH (1 mL/1 mL THF), and NaOH (1N) (11 eq) were stirred together overnight. Solvents were removed and the resulting residue was taken up in water. The solution was acidified with 1N HCl and collected resulting precipitate by filtration. Obtained 3-[4-({2-[1-benzhydryl-5-chloro-2-(2-{[(2-chlorobenzyl)sulfonyl]amino}ethyl)-1H-indol-3-yl]ethyl}sulfonyl)phenyl]propanoic acid (light-brown solid) in 83% yield.

reactant | Ethyl 3-[4-({2-[1-benzhydryl-5-chloro-2-(2-{[(2-chlorobenzyl)sulfonyl]amino}ethyl)-1H-indol-3-yl]ethyl}sulfonyl)phenyl]propanoate | 1 eq | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)Cl)CCS(=O)(=O)C1=CC=C(C=C1)CCC(=O)OCC)CCNS(=O)(=O)CC1=C(C=CC=C1)Cl | C43H42Cl2N2O6S2
reactant | THF | 0.1M | C1CCOC1 | C4H8O
reactant | NaOH | 1N, 11 eq | [OH-].[Na+]
solvent | MeOH | 1 mL | CO | CH4O
product | 3-[4-({2-[1-benzhydryl-5-chloro-2-(2-{[(2-chlorobenzyl)sulfonyl]amino}ethyl)-1H-indol-3-yl]ethyl}sulfonyl)phenyl]propanoic acid | 83% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)Cl)CCS(=O)(=O)C1=CC=C(C=C1)CCC(=O)O)CCNS(=O)(=O)CC1=C(C=CC=C1)Cl | C41H38Cl2N2O6S2
